US06939887B2
Synthesis of 1-(4-chlorophenyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile
5-Amino-1-(4-chlorophenyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one (0.7398 g) was dissolved in dimethyl sulfoxide (35 ml), and to the solution was added CuCN (0.6065 g). The mixture was heated at 55° C. At the same temperature, t-butyl nitrite (0.792 ml) was added dropwise during 1.5 hours. After the addition was completed, the mixture was stirred at 60° C. for 4 hours. After allowing to cool, to the reaction mixture was added saturated brine, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The resultant residue was purified by silica gel column (100 g, CHCl3:methanol=25:1) and then by silica gel column (70 g, hexane:ethyl acetate=1:1) to give the title compound (0.1767 g, 23%).

reactant | 5-Amino-1-(4-chlorophenyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one | 0.7398 g | NC1=CC2=C(N(C(N2)=O)C2=CC=C(C=C2)Cl)C(=C1)C(F)(F)F | C14H9ClF3N3O
reactant | CuCN | 0.6065 g | C(#N)[Cu]
reactant | t-butyl nitrite | 0.792 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | dimethyl sulfoxide | 35 ml | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 1-(4-chlorophenyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 0.1767 g, 23% | ClC1=CC=C(C=C1)N1C(NC2=C1C(=CC(=C2)C#N)C(F)(F)F)=O | C15H7ClF3N3O
